US06498159B1
300 ml ethanol was ice-cooled, and 6.13 g of sodium borohydride was dissolved therein. 100 ml solution of 38.9 g of tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate in ethanol was added dropwise thereinto over 25 min. The reaction solution was treated with saturated aqueous ammonium chloride and evaporated. The resulting residue was partitioned into ethyl acetate and water, and the ethyl acetate layer was washed with brine and dried over magnesium sulfate. After filtration, the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 36.6 g of tert-butyl 2-hydroxy-7-azaspiro[3.5]nonane-7-carboxylate.

reactant | sodium borohydride | 6.13 g | [BH4-].[Na+]
reactant | tert-butyl 2-oxo-7-azaspiro[3.5]nonane-7-carboxylate | 38.9 g | O=C1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | tert-butyl 2-hydroxy-7-azaspiro[3.5]nonane-7-carboxylate | 36.6 g | OC1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C13H23NO3
